US06281227B1
B. {1-[2-(4-Nitrophenyl)-ethyl]-2-oxopyrrolidin-3-(S)-yl}-carbamic acid tert-butyl ester
To a solution of Boc-L-Asp(H)-OBn (3.3 g, 10.7 mmol) dissolved in methanol (50 mL) is added 4 Å molecular sieves, 4-nitrophenethylamine hydrochloride (4.35 g, 21.5 mmol) and triethylamine (2.25 g, 22.2 mmol). The solution is stirred at room temperature for 45 minutes and then the mixture is treated with sodium cyanoborohydride (0.72 g, 11.5 mmol). The reaction mixture is stirred at room temperature for 16 hours. After this time,1 N NaOH (10 mL) followed by water (25 mL) is added. The resulting mixture is stirred for 30 minutes and then concentrated in vacuo to a smaller volume. The solution is diluted with EtOAc (250 mL), filtered through a pad of Celite and washed with water and EtOAc. The solution is poured into a separatory funnel and the layers are separated. The aqueous layer is extracted with EtOAc. The combined organic layers are washed with 1N HCl, H2O, saturated NaHCO3 solution and saturated NaCl. The organic phase is dried over MgSO4, filtered and concentrated. The crude residue is purified by column chromatography eluting with 50% EtOAc/CH2Cl2 to afford the title compound (1.46 g, 4.18 mmol) as a pale yellow solid.

reactant | Boc-L-Asp(H)-OBn | 10.7 mmol, 3.3 g | N([C@@H](CC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C16H21NO6
reactant | 4-nitrophenethylamine hydrochloride | 21.5 mmol, 4.35 g | Cl.[N+](=O)([O-])C1=CC=C(CCN)C=C1
reactant | triethylamine | 22.2 mmol, 2.25 g | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 11.5 mmol, 0.72 g | C(#N)[BH3-].[Na+]
reactant | NaOH | 1 N, 10 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | {1-[2-(4-Nitrophenyl)-ethyl]-2-oxopyrrolidin-3-(S)-yl}-carbamic acid tert-butyl ester | 4.18 mmol, 1.46 g | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H23N3O5
